US08802679B2
Under an argon atmosphere, to a solution of tert-butyl 4-(4-bromophenyl)piperazine-1-carboxylate (993 mg) and bis(pinacolato)diboron (813 mg) in dioxane (20 ml) were added potassium acetate (1.03 g) and dichlorobis(triphenylphosphine)palladium(II) (102 mg), followed by stirring at 80° C. for 24 hours. To the reaction mixture was added a saturated aqueous sodium hydrogen carbonate solution, followed by extraction with CHCl3. The organic layer was dried over Na2SO4, and the solvent was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (CHCl3/MeOH) to obtain tert-butyl 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]piperazine-1-carboxylate (900 mg).

reactant | tert-butyl 4-(4-bromophenyl)piperazine-1-carboxylate | 993 mg | BrC1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H21BrN2O2
reactant | bis(pinacolato)diboron | 813 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.03 g | C(C)(=O)[O-].[K+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 102 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-butyl 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]piperazine-1-carboxylate | 900 mg | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)C | C21H33BN2O4
